US07601716B2
5-[1-(2-Chloro-3,6-difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]-pyridin-2-ylamine
1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (87 mg) was coupled to 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-ylamine as in General Procedure 4B to give the title compound as a light brown solid (52% yield). M.p.>200° C., LCMS: m/z=388.10 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.28 (2H, m), 3.51 (2H, m), 4.52 (2H, d, J=1.3 Hz), 6.58 (1H, dd, J=8.6, 0.8 Hz), 7.00 (1H, d, J=2.0 Hz), 7.05 (1H, m), 7.14 (1H, m), 7.30 (2H, s), 7.54 (1H, d, J=2.0 Hz), 7.58 (1H, dd, J=8.6, 2.5 Hz), 8.13 (1H, dd, J=2.4, 0.6 Hz).

reactant | 1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 87 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C(=CC=C1F)F | C14H11ClF2IN3
reactant | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-ylamine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N)C | C11H17BN2O2
product | 5-[1-(2-Chloro-3,6-difluorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]-pyridin-2-ylamine | 52% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=CC(=NC3)N)C(=CC=C1F)F | C19H16ClF2N5
